US04242507
In dry benzene (50 ml) are dissolved 1-hydroxy-6-chloro-1,2,3-benzotriazole (8.5 g) and triethylamine (7.0 ml), and thereto is added p-toluenesulfonyl chloride (9.5 g) at room temperature and the mixture is stirred for 1 hour. To the reaction mixture are added water and benzene. The benzene layer is separated, dried over anhydrous magnesium sulfate and distilled to remove the solvent. The resulting residue is recrystallized from carbon tetrachloride to give 1-(p-toluenesulfonyloxy)-6-chloro-1,2,3-benzotriazole (12.6 g), melting point: 94°-96° C.

reactant | 1-hydroxy-6-chloro-1,2,3-benzotriazole | 8.5 g | ON1N=NC2=C1C=C(C=C2)Cl | C6H4ClN3O
reactant | triethylamine | 7.0 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 9.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1-(p-toluenesulfonyloxy)-6-chloro-1,2,3-benzotriazole | 12.6 g | C1(=CC=C(C=C1)S(=O)(=O)ON1N=NC2=C1C=C(C=C2)Cl)C | C13H10ClN3O3S
